US06660744B1
1,1′-Thiocarbonyldi-2(1H)-pyridone (0.086 g, 0.369 mmol) was added to a solution of cis-3-(4-aminophenyl) 1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.150 g, 0.369 mmol) in pyridine (7 mL) at 0° C., and the mixture was stirred for 1 h at 0° C. The resulting orange solution was partitioned between dichloromethane (10 mL) and water (10 mL). The organic layer was separated and washed with 0.5 N HCl (10 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated. 2-Amino-m-cresol (0.045 g, 0.369 mmol) was added to a suspension of the resulting orange solid and toluene (10 mL), and the mixture was heated at 80° C. for 1 h. 1,3-Dicyclohexylcarbodiimide (0.114 g, 0.554 mmol) was added and the reaction mixture was heated at 80 C for an additional 18 h. The resulting orange brown solution was cooled to room temperature and concentrated to afford a light brown glassy solid. Purification by preparative HPLC (25 to 100% CH3CN in 0.1 N aqueous ammonium acetate over 20 min at 21 mL/min using a 8μ Hypersil HS C18, 250×21 mm column, tr=8.1-10.3 min.) afforded cis-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-4-methyl-1,3-benzoxazol-2-amine as an off-white solid (0.024 g, 12%): 1H NMR (DMSO-d6, 400 MHz) δ 10.81 (s, 1H), 8.24 (s, 1H), 7.96 (d, 2H), 7.66 (d, 2H), 7.33 (d, 1H), 7.06 (m, 2H), 4.80 (m, 1H), 3.391 (m, 1H), 2.67-2.10 (m, 18H), 1.71-1.60 (m, 4H); RP-HPLC (25 to 100% CH3CN in 0.1 N aqueous ammonium acetate over 10 min at 1 mL/min using a Hypersil HS C18, 250×4.6 mm column) tr=7.57 min., 99%; m/z 538 (MH+).

reactant | 1,1′-Thiocarbonyldi-2(1H)-pyridone | 0.369 mmol, 0.086 g | C(=S)(N1C(C=CC=C1)=O)N1C(C=CC=C1)=O | C11H8N2O2S
reactant | cis-3-(4-aminophenyl) 1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.369 mmol, 0.150 g | NC1=CC=C(C=C1)C1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C22H30N8
reactant | 2-Amino-m-cresol | 0.369 mmol, 0.045 g | NC1=C(C=CC=C1O)C | C7H9NO
reactant | 1,3-Dicyclohexylcarbodiimide | 0.554 mmol, 0.114 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | pyridine | 7 mL | N1=CC=CC=C1 | C5H5N
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | cis-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-4-methyl-1,3-benzoxazol-2-amine | 0.024 g, 12% | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC=2OC1=C(N2)C(=CC=C1)C)[C@@H]1CC[C@@H](CC1)N1CCN(CC1)C | C30H35N9O
